// NOR2X1
simulator lang=spectre insensitive=yes
global vss vdd
subckt NOR2X1 A B Y
    C46  (B\#1 3)  capacitor c=702.269a
    C49  (B\#1 net9)  capacitor c=247.812a
    C5  (B\#1 vdd)  capacitor c=22.1274a
    C6  (3 vdd)  capacitor c=6.82798e-15
    C8  (net9 vdd)  capacitor c=26.7824a
    C1  (vss vdd)  capacitor c=6.28194e-18
    C20  (B\#1 vss)  capacitor c=3.08722e-18
    C23  (3 vss)  capacitor c=6.66291e-15
    C4  (Y vdd)  capacitor c=26.333a
    C16  (Y vss)  capacitor c=1.28683e-18
    C37  (B\#1 Y)  capacitor c=307.556a
    C42  (net9 Y)  capacitor c=152.931a
    C41  (Y\#3 3)  capacitor c=5.38241e-15
    C7  (vdd\#1 3)  capacitor c=322.18a
    C2  (vdd\#1 A)  capacitor c=22.1511a
    C13  (A vss)  capacitor c=10.2837a
    C31  (3 A)  capacitor c=3.38372e-15
    C3  (vdd\#1 A\#4)  capacitor c=303.441a
    C27  (A\#4 Y)  capacitor c=3.48881e-18
    C44  (X5_5 Y)  capacitor c=636.131a
    C11  (X5_5 vdd)  capacitor c=45.0485a
    C9  (net9\#2 vdd)  capacitor c=30.3639a
    C10  (vdd\#1 net9\#2)  capacitor c=146.624a
    C26  (net9\#2 vss)  capacitor c=5.29192e-19
    C32  (A\#4 3)  capacitor c=643.213a
    C35  (net9\#2 A\#4)  capacitor c=248.735a
    C50  (B\#1 X5_5)  capacitor c=526.868a
    C52  (X5_5 net9)  capacitor c=186.459a
    C22  (B\#2 vss)  capacitor c=5.01933e-18
    C40  (B\#2 Y\#3)  capacitor c=727.441a
    C48  (B\#2 3)  capacitor c=2.55904e-15
    C51  (net9\#2 3)  capacitor c=103.803a
    C12  (vdd\#1 X4_5)  capacitor c=636.131a
    C36  (A\#4 X4_5)  capacitor c=503.459a
    C53  (net9\#2 X4_5)  capacitor c=209.118a
    C43  (Y\#4 net9\#2)  capacitor c=4.81054e-18
    C15  (A\#5 vss)  capacitor c=1.39239e-19
    C28  (Y\#4 A)  capacitor c=374.885a
    C30  (A\#5 Y\#4)  capacitor c=4.70031e-18
    C34  (A\#5 3)  capacitor c=40.1876a
    C29  (Y\#4 A\#6)  capacitor c=396.962a
    C33  (A\#6 3)  capacitor c=1.35929e-15
    C14  (vss\#2 A\#6)  capacitor c=130.44a
    C17  (vss\#2 Y\#4)  capacitor c=102.564a
    C25  (vss\#2 3)  capacitor c=2.10042e-15
    C18  (Y\#3 vss\#1)  capacitor c=134.1a
    C24  (vss\#1 3)  capacitor c=249.65a
    C19  (B vss)  capacitor c=3.93913e-18
    C38  (Y\#3 B)  capacitor c=185.018a
    C45  (3 B)  capacitor c=2.21732e-15
    C47  (B\#3 3)  capacitor c=1.42555e-15
    C21  (vss\#1 B\#3)  capacitor c=95.5396a
    C39  (Y\#3 B\#3)  capacitor c=449.24a
    Rc7  (Y\#3 Y\#5)  resistor r=5.0981
    Rs1  (3 vss)  resistor r=50
    Rc9  (Y Y\#1)  resistor r=1.603
    Rc8  (Y\#1 Y\#3)  resistor r=7.1435
    Rd6  (Y Y\#3)  resistor r=414.3m
    Rc14  (vdd\#1 vdd)  resistor r=1.4545
    Rc4  (net9 net9\#2)  resistor r=2.7059
    Rc2  (B\#1 B\#2)  resistor r=744.2584
    Rd1  (A\#4 A\#5)  resistor r=657.2891
    Rd2  (A\#5 A)  resistor r=5.07
    Rc1  (A\#5 A\#6)  resistor r=957.2891
    Rc6  (Y\#3 Y\#4)  resistor r=5.3575
    Rd5  (vss vss\#2)  resistor r=5.8178
    Rc5  (vss\#1 vss\#2)  resistor r=71.8528
    Rd4  (vss vss\#1)  resistor r=5.9341
    Rc3  (B\#2 B)  resistor r=750.9302
    Rd3  (B\#2 B\#3)  resistor r=1044.2584
    MX3_M0_unmatched  (Y\#5 B\#3 vss\#1 vss\#1)  nch w=2e-06 l=1e-06 as=0 \
        ad=5e-12 ps=0 pd=9e-06 sa=2e-06 sb=2e-06
    MX2_M0_unmatched  (Y\#4 A\#6 vss\#2 vss\#2)  nch w=2e-06 l=1e-06 as=0 \
        ad=5e-12 ps=0 pd=9e-06 sa=2e-06 sb=2e-06
    MX5_M0_unmatched  (Y\#1 B\#1 net9 net9)  pch w=8e-06 l=1e-06 as=0 \
        ad=2e-11 ps=0 pd=2.1e-05 sa=2e-06 sb=2e-06
    MX4_M0_unmatched  (net9\#2 A\#4 vdd\#1 vdd\#1)  pch w=8e-06 l=1e-06 \
        as=0 ad=2e-11 ps=0 pd=2.1e-05 sa=2e-06 sb=2e-06
ends NOR2X1
